US09212187B2
Synthesis of 6-{3-[(2-aminoethyl)-N-(pyridin-4-ylmethyl)amino]propoxy}-1-methyl-1H-quinolin-2-one
A 4N-hydrogen chloride ethyl acetate solution(0.22 ml) was added to an ethyl acetate solution (3 ml) of (2-{[3-(1-Methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propyl]-pyridin-4-ylmethyl-amino}-ethyl)-carbamic acid tert-butyl ester (137 mg), and the mixture was stirred at room temperature overnight. 5N-Ammoia methanol solution(1 ml) was added to the reaction mixture, and the generated insoluble matter was separated by filtration. The filtrate was condensed under reduced pressure to give the title compound(85.7 mg) as an colorless oil.

reactant | hydrogen chloride ethyl acetate | 0.22 ml | C(C)OC(C)=O.Cl
reactant | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
reactant | (2-{[3-(1-Methyl-2-oxo-1,2-dihydro-quinolin-6-yloxy)-propyl]-pyridin-4-ylmethyl-amino}-ethyl)-carbamic acid tert-butyl ester | 137 mg | C(C)(C)(C)OC(NCCN(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O)=O | C26H34N4O4
solvent | methanol | 1 ml | CO | CH4O
product | 6-{3-[(2-aminoethyl)-N-(pyridin-4-ylmethyl)amino]propoxy}-1-methyl-1H-quinolin-2-one | 85.7 mg | NCCN(CC1=CC=NC=C1)CCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C21H26N4O2
